US08604029B2
To a solution of N-{4-[4-(6-{bis-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-amino}-pyridin-2-yl)-piperazin-1-yl]-phenyl}-2-oxo-2-(2-phenyl-indolizin-3-yl)-acetamide (0.7 g, 0.81 mmol) in THF (10 mL) was added tetra-n-butylammonium fluoride (1.28 g, 4.06 mmol) at 0° C. The reaction mixture was stirred at r.t. for 1 h. The solvent was evaporated in vacuo, the residue diluted with dichloromethane and washed with water, brine, dried over sodium sulfate filtered and concentrated. The crude compound was purified by column chromatography over silica gel (60-120 mesh) using 3% methanol/chloroform to yield N-[4-(4-{6-[bis-(2-hydroxy-ethyl)-amino]-pyridin-2-yl}-piperazin-1-yl)-phenyl]-2-oxo-2-(2-phenyl-indolizin-3-yl)-acetamide (180 mg, 36%) as a light yellow solid.

reactant | N-{4-[4-(6-{bis-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-amino}-pyridin-2-yl)-piperazin-1-yl]-phenyl}-2-oxo-2-(2-phenyl-indolizin-3-yl)-acetamide | 0.81 mmol, 0.7 g | C(C)(C)(C)[Si](OCCN(C1=CC=CC(=N1)N1CCN(CC1)C1=CC=C(C=C1)NC(C(C1=C(C=C2C=CC=CN12)C1=CC=CC=C1)=O)=O)CCO[Si](C(C)(C)C)(C)C)(C)C | C47H64N6O4Si2
reactant | tetra-n-butylammonium fluoride | 4.06 mmol, 1.28 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-[4-(4-{6-[bis-(2-hydroxy-ethyl)-amino]-pyridin-2-yl}-piperazin-1-yl)-phenyl]-2-oxo-2-(2-phenyl-indolizin-3-yl)-acetamide | 180 mg, 36% | OCCN(C1=CC=CC(=N1)N1CCN(CC1)C1=CC=C(C=C1)NC(C(C1=C(C=C2C=CC=CN12)C1=CC=CC=C1)=O)=O)CCO | C35H36N6O4
